US07728009B1
To a solution of 4,5-dibromo-1-ethyl-2-naphthalen-1-yl-1H-imidazole (6.55 g, 17.2 mmol) in anhydrous THF (150 ml) at −78° C. under nitrogen is added a solution of n-BuLi in hexane (1.6 M, 11.8 ml, 19 mmol, 1.1 eq.) dropwise. The resulting mixture is stirred at −78° C. for 1 hr, and TMSCl (2.05 g, 19 mmol, 1.1 eq.) is added. The resulting solution is stirred at −78° C. After 1 hr, n-BuLi in hexane (1.6 M, 11.8 ml, 19 mmol, 1.1 eq.) is added dropwise. The resulting mixture is stirred at −78° C. for 1 hr, and N-fluorobenzenesulfonimide (5.99 g, 19 mmol, 1.1 eq.) is added. The resulting solution is stirred at −78° C. for 2 hr, warmed to rt slowly, and then stirred at rt overnight. Water (50 ml) is added to quench the reaction, and THF is evaporated. The residue is extracted with EtOAc (75 ml×2) and the combined organic layers are washed with water and brine, dried and concentrated to give crude 1-ethyl-4-fluoro-2-naphthalen-1-yl-5-trimethylsilanyl-1H-imidazole as a yellow oil. LCMS 313 (M+1).

reactant | 4,5-dibromo-1-ethyl-2-naphthalen-1-yl-1H-imidazole | 17.2 mmol, 6.55 g | BrC=1N=C(N(C1Br)CC)C1=CC=CC2=CC=CC=C12 | C15H12Br2N2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 19 mmol, 1.6 M, 11.8 ml, 1.1 eq. | CCCCCC | C6H14
reactant | TMSCl | 19 mmol, 2.05 g, 1.1 eq. | C[Si](C)(C)Cl | C3H9ClSi
reactant | hexane | 19 mmol, 1.6 M, 11.8 ml, 1.1 eq. | CCCCCC | C6H14
reactant | N-fluorobenzenesulfonimide | 19 mmol, 5.99 g, 1.1 eq. | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | Water | 50 ml | O | H2O
product | 1-ethyl-4-fluoro-2-naphthalen-1-yl-5-trimethylsilanyl-1H-imidazole | C(C)N1C(=NC(=C1[Si](C)(C)C)F)C1=CC=CC2=CC=CC=C12 | C18H21FN2Si
